US07560558B2
Compound 286: 4-[2-(2,4-Difluoro-phenyl)-quinolin-3-yloxy]-6,7-dimethoxy-quinoline
2-(2,4-Difluoro-phenyl)-quinolin-3-ol (220 mg), 4-chloro-6,7-dimethoxyquinoline (237 mg), and 4-dimethylaminopyridine (380 mg) were suspended in o-dichlorobenzene (10 ml), and the suspension was stirred at 145° C. for 8 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (104 mg, yield 27%).

reactant | 2-(2,4-Difluoro-phenyl)-quinolin-3-ol | 220 mg | FC1=C(C=CC(=C1)F)C1=NC2=CC=CC=C2C=C1O | C15H9F2NO
reactant | 4-chloro-6,7-dimethoxyquinoline | 237 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 380 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-[2-(2,4-Difluoro-phenyl)-quinolin-3-yloxy]-6,7-dimethoxy-quinoline | 104 mg, yield 27% | FC1=C(C=CC(=C1)F)C1=NC2=CC=CC=C2C=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C26H18F2N2O3
